US07176242B2
N2-[(2R,3S)-3-Amino-4-(3,5-difluorophenyl)-2-hydroxybutyl]-N1-isobutyl-L-alaninamide dihydrochloride
[1-(3,5-Difluoro-benzyl)-2-hydroxy-3-(1-isobutylcarbamoyl-ethylamino)-propyl]-carbamic acid tert-butyl ester (2.7 g, 6 mmol) is dissolved in excess 4N hydrochloric acid in dioxane, and the reaction is stirred 2 h at room temperature. The solution is concentrated under reduced pressure to give the title compound. ESI MS m/z 344.3 [M+H]+.

reactant | [1-(3,5-Difluoro-benzyl)-2-hydroxy-3-(1-isobutylcarbamoyl-ethylamino)-propyl]-carbamic acid tert-butyl ester | 6 mmol, 2.7 g | C(C)(C)(C)OC(NC(C(CNC(C)C(NCC(C)C)=O)O)CC1=CC(=CC(=C1)F)F)=O | C22H35F2N3O4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N2-[(2R,3S)-3-Amino-4-(3,5-difluorophenyl)-2-hydroxybutyl]-N1-isobutyl-L-alaninamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](CN[C@@H](C)C(=O)NCC(C)C)O)CC1=CC(=CC(=C1)F)F | InChI=1S/C17H27F2N3O2.2ClH/c1-10(2)8-22-17(24)11(3)21-9-16(23)15(20)6-12-4-13(18)7-14(19)5-12;;/h4-5,7,10-11,15-16,21,23H,6,8-9,20H2,1-3H3,(H,22,24);2*1H/t11-,15-,16+;;/m0../s1
